US05159114
A solution of methyl 4-methylthio-3-nitrobenzoate (11.7 g) and sodium hydroxide (4.1 g) in ethanol (234 ml) and water (117 ml) was heated at reflux for 2 hours and was then concentrated in vacuo to about 70 ml. Water (250 ml) was added and the mixture was warmed to give a solution which was acidified with acetic acid (30 ml). The mixture was stirred while cooling and the resulting solid collected and washed with water to yield 4-methylthio-3-nitrobenzoic acid (10.3 g), m.p. 245°-247° C. [Elemental analysis: C,45.2; H,3.22; N,6.48; S,14.1%; calculated: C,45.07; H,3.29; N,6.57; S,15.02%].

reactant | methyl 4-methylthio-3-nitrobenzoate | 11.7 g | CSC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4S
reactant | sodium hydroxide | 4.1 g | [OH-].[Na+]
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 234 ml | C(C)O | C2H6O
solvent | water | 117 ml | O | H2O
product | 4-methylthio-3-nitrobenzoic acid | 10.3 g | CSC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4S
